US04035369
A mixture of 4.4 parts of (4-fluorophenyl) (4-piperidinyl) methanone hydrochloride, 6 parts of sodium carbonate and 160 parts of 4-methyl-2-pentanone is stirred and refluxed for 30 minutes with water-separator. After cooling, 6.2 parts of 3-(5,6-dichloro-2,3-dihydro-2-oxo-1H-benzimidazol-1yl)propyl methanesulfonate are added and the whole is stirred and refluxed overnight. The reaction mixture is cooled, water is added and the layers are separated. The 4-methyl-2-pentanone-phase is dried, filtered and evaporated. The solid residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and 10% of methanol as eluent. The pure fractions are collected and the eluent is evaporated. The solid residue is stirred in trichloromethane. The product is filtered off, stirred in methanol, filtered off again and dried, yielding 2 parts (25%) of 5,6-dichloro-1-{3-[4-(4-fluorobenzoyl)-1-piperidinyl]propyl}-1,3-dihydro-2H-benzimidazol-2-one; mp. 198°-202° C.

reactant | (4-fluorophenyl) (4-piperidinyl) methanone hydrochloride | Cl.FC1=CC=C(C=C1)C(=O)C1CCNCC1
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
reactant | 3-(5,6-dichloro-2,3-dihydro-2-oxo-1H-benzimidazol-1yl)propyl methanesulfonate | CS(=O)(=O)OCCCN1C(NC2=C1C=C(C(=C2)Cl)Cl)=O | C11H12Cl2N2O4S
solvent | water | O | H2O
product | 5,6-dichloro-1-{3-[4-(4-fluorobenzoyl)-1-piperidinyl]propyl}-1,3-dihydro-2H-benzimidazol-2-one | 25% | ClC1=CC2=C(N(C(N2)=O)CCCN2CCC(CC2)C(C2=CC=C(C=C2)F)=O)C=C1Cl | C22H22Cl2FN3O2
